US04539421
(a) 4,4-Ethylenedioxy-1-phenyl-2,2,6,6-tetramethyl-phosphorinane
A flask equipped with a Dean-Stark trap was charged with a mixture of 150 mls of ethylene glycol, 0.73 grams p-toluenesulfonic acid and 800 mls toluene and then purged with nitrogen for one hour. To this mixture, 10 grams of 1-phenyl-2,2,6,6-tetramethyl-4-phosphorinanone (0.04 mole) were added. The two phase system was heated to reflux and 26 mls of a water-ethylene glycol azeotrope were collected over a 20 hour period. The reaction mixture was washed with saturated sodium bicarbonate, water, dried over anhydrous potassium carbonate, the solvent removed in vacuo, and the residue distilled under reduced pressure to give 9.2 grams (78%) of a colorless liquid, bp 134°-140° C. (0.3 mm Hg).

reactant | ethylene glycol | 150 mls | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.73 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-phenyl-2,2,6,6-tetramethyl-4-phosphorinanone | 0.04 mole, 10 grams | C1(=CC=CC=C1)P1C(CC(CC1(C)C)=O)(C)C | C15H21OP
solvent | toluene | 800 mls | C1(=CC=CC=C1)C | C7H8
product | 4,4-Ethylenedioxy-1-phenyl-2,2,6,6-tetramethyl-phosphorinane | 9.2 grams, 78% | C1OC2(CC(P(C(C2)(C)C)C2=CC=CC=C2)(C)C)OC1 | C17H25O2P
